US05578627
In 10 ml of methanol is dissolved 3-(2-tert-butoxycarbonylamino-3-methylaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole, and to this solution is added 9.6 ml of a 2-propanol solution (7.5N) of hydrogen chloride, and they are subjected to reaction at 20°-25° C. for 4.5 hours. The solvent is removed from the reaction mixture by distillation under reduced pressure, and to the residue obtained is added 5 ml of 2-propanol, after which the crystals precipitated are collected by filtration, to obtain 0.30 g of colorless, crystalline 3-(2-amino-3-methylaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride having a melting point of 206°-209° C.

reactant | 2-propanol | 7.5N, 9.6 ml | CC(C)O | C3H8O
reactant | hydrogen chloride | Cl | ClH
reactant | 2-propanol | 5 ml | CC(C)O | C3H8O
reactant | 3-(2-tert-butoxycarbonylamino-3-methylaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole | C(C)(C)(C)OC(=O)NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NC | C17H22ClN3O6
solvent | methanol | 10 ml | CO | CH4O
product | 3-(2-amino-3-methylaminocarbonyloxypropoxy)-5-chloro-1,2-benzoisoxazole hydrochloride | Cl.NC(COC1=NOC2=C1C=C(C=C2)Cl)COC(=O)NC | InChI=1S/C12H14ClN3O4.ClH/c1-15-12(17)19-6-8(14)5-18-11-9-4-7(13)2-3-10(9)20-16-11;/h2-4,8H,5-6,14H2,1H3,(H,15,17);1H
